US06890705B2
(c) Preparation of Silver 5-Ethylbenzotriazole Emulsion
The mixture thus obtained was stirred for 5 minutes, and then mixed with a solution of 4.2 g of 5-ethylbenzotriazole and 1.2 g of sodium hydroxide in 150 ml of water and a solution of 5 g of silver nitrate in 150 ml of water simultaneously over 6 minutes, to prepare an emulsion.

reactant | 5-ethylbenzotriazole | 4.2 g | C(C)C1=CC2=C(NN=N2)C=C1 | C8H9N3
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | silver nitrate | 5 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 150 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | Silver 5-Ethylbenzotriazole | C(C)C1=CC2=C(NN=N2)C=C1.[Ag] | InChI=1S/C8H9N3.Ag/c1-2-6-3-4-7-8(5-6)10-11-9-7;/h3-5H,2H2,1H3,(H,9,10,11);
